
.subckt LMG5200_TRANS HB HI HS LI PGND AGND VCC VIN SW
X_U3 LO HS PGND EPC2016C
X_U2 HOH VIN HS EPC2016C
M_U1_M3 U1_N16654664 U1_N16654638 LO LO NMOS01
X_U1_U3 U1_N16653092 U1_N16653336 U1_N16655486 AND2_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=.5
R_U1_R11 U1_N16655218 U1_N16653474 TC=0,0 R=13
V_U1_V3 U1_N16653310 AGND DC 2.06
X_U1_U5 HI U1_N16653310 U1_N16653316 U1_N16653096 COMPHYS_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_U1_U13 VCC HB d_d1
R_U1_R7 U1_N16653954 U1_N16654638 R=50
C_U1_C1 U1_N16653578 U1_N16655008 C=10p
R_U1_R15 U1_N16655764 U1_N16655214 TC=0,0 R={20 + 2n* 0.68e9}
C_U1_C9 0 U1_N16655218 C=1n
C_U1_C2 U1_N16653646 U1_N16653616 C=20p
R_U1_R5 U1_N16653572 U1_N16653616 R=100
E_U1_ABM4 U1_LO_ON 0 VALUE={ if(V(U1_N16652926)  >0.5,1,0)    }
R_U1_R16 U1_N16652926 U1_N16655754 TC=0,0 R=20
C_U1_C4 U1_N16654638 U1_N16654664 C=10p
R_U1_R3 U1_N16654976 U1_N16653578 R=50
V_U1_V9 U1_N16654306 0 DC 0.2
R_U1_R9 U1_N16654944 U1_N16654806 R=100
V_U1_V8 U1_N16654258 0 DC 3.2
M_U1_M2 U1_N16653646 U1_N16653616 HOH HOH PMOS01
X_U1_U116 U1_N16655206 U1_N16655236 d_d1
X_U1_U2 U1_N16653096 U1_N16653092 U1_UVLOHI AND2_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=.5
C_U1_C3 HOH U1_N16653578 C=10p
M_U1_M4 U1_N16654836 U1_N16654806 LO LO PMOS01
X_U1_U10 LI U1_N16653174 U1_N16653200 U1_N16653336 COMPHYS_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5
C_U1_C6 HOH U1_N16653616 C=20p
M_U1_M1 U1_N16655008 U1_N16653578 HOH HOH NMOS01
R_U1_R13 U1_N16654120 U1_N16655486 TC=0,0 R=13
C_U1_C11 0 U1_N16654120 C=1n
R_U1_R12 U1_N16655236 U1_N16655206 TC=0,0 R=13k
E_U1_E4 U1_N16653954 LO VALUE={ IF(V(U1_LO_ON, 0) > 0.5, 5, -5) }
C_U1_C7 U1_N16654836 U1_N16654806 C=20p
R_U1_R14 U1_N16655508 U1_N16655478 TC=0,0 R=13k
V_U1_V4 U1_N16653316 0 DC 0.4
E_U1_E8 U1_N16654408 0 HB HS 1
C_U1_C5 LO U1_N16654638 C=10p
R_U1_R6 U1_N16653646 HS R=20m
V_U1_V7 U1_N16654060 0 DC 0.2
C_U1_C10 0 U1_N16655236 C=1p
R_U1_R10 U1_N16654836 0 R=20m
R_U1_R4 HB U1_N16655008 R=20m
X_U1_U117 U1_N16655218 U1_N16653474 d_d1
C_U1_C12 0 U1_N16655508 C=1p
E_U1_ABM2 U1_N16655478 0 VALUE={ if(V(U1_N16654120)  >0.5,1,0)    }
V_U1_V1 U1_N16653174 AGND DC 2.06
C_U1_C14 0 U1_N16652926 C=1n
C_U1_C15 HB HS C=47n
X_U1_U119 U1_N16655478 U1_N16655508 d_d1
V_U1_V2 U1_N16653200 0 DC 0.4
X_U1_U9 U1_N16655236 U1_N16655206 U1_N16655214 OR2_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_E1 U1_N16654976 HOH VALUE={ IF(V(U1_HI_ON, 0) > 0.5, 5, -5) }
C_U1_C8 LO U1_N16654806 C=20p
E_U1_E2 HOH U1_N16653572 VALUE={ IF(V(U1_HI_ON, 0) > 0.5, -5, 5) }
X_U1_U6 HB U1_N166561400 d_d
E_U1_E3 LO U1_N16654944 VALUE={ IF(V(U1_LO_ON, 0) > 0.5, -5, 5) }
R_U1_R8 VCC U1_N16654664 R=20m
E_U1_ABM1 U1_N16655206 0 VALUE={ if(V(U1_N16655218) >0.5,1,0)    }
E_U1_E7 U1_N16654252 0 VCC AGND 1
X_U1_U4 U1_N16653346 U1_UVLOHI U1_N16653474 AND2_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=.5
X_U1_U15 U1_N16654408 U1_N16654258 U1_N16654306 U1_N16653346 COMPHYS_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_U1_ABM3 U1_HI_ON 0 VALUE={ if(V(U1_N16655764)  >0.5,1,0)    }
X_U1_U120 U1_N16655508 U1_N16655478 U1_N16655754 OR2_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5
C_U1_C13 0 U1_N16655764 C=1n
V_U1_V6 U1_N16654012 0 DC 3.8
V_U1_V5 U1_N166561400 HS DC 5.3
X_U1_U121 U1_N16654120 U1_N16655486 d_d1
X_U1_U14 U1_N16654252 U1_N16654012 U1_N16654060 U1_N16653092 COMPHYS_BASIC_GEN 
+ PARAMS: VDD=1 VSS=0 VTHRESH=0.5
Rdum1 SW HS R=1m
.ENDS
.SUBCKT D_D1 1 2

D1 1 2 DD1
.MODEL DD1 D IS=1e-15 N=0.05 RS=1 TT=10p LEVEL=2

.ENDS

.SUBCKT d_d 1 2



D1 1 2 dd
.MODEL dd D IS=1e-015 N=0.01 RS=0.01 TT=1e-011 LEVEL=2

.ENDS





.MODEL NMOS01 NMOS KP=0.267 LAMBDA=0.001 VTO=2 LEVEL=1



.MODEL PMOS01 PMOS KP=1.11 LAMBDA=0.001 VTO=-2 LEVEL=1





.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5





EIN INP1 INM1 INP INM 1
EHYS INP1 INP2 VALUE={ IF( V(1) > (VTHRESH),-V(HYS),0) }
EOUT_COMPHYS_BASIC_GEN OUT 0 VALUE={ IF( V(INP2)>V(INM1), (VDD) ,(VSS)) }
R1_COMPHYS_BASIC_GEN OUT 1 R=1
C1_COMPHYS_BASIC_GEN 1 0 C=5n
RINP1 INP1 0 R=1K
.ENDS
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE_AND2 YINT 0 
+ VALUE={(IF(V(A) > (VTHRESH)  &  V(B) > (VTHRESH),(VDD),(VSS)))}
RINT_AND2 YINT Y R=1
CINT_AND2 Y 0 C=1n
.ENDS
.SUBCKT INVERTER IN OUT

EOUT_INVERTER OUT1 0 VALUE={ IF( V(IN)<0.5,1,0) }
R1_INVERTER OUT1 OUT R=1
C1_INVERTER OUT 0 C=10p
.ENDS
.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE_INV_BASIC_GEN YINT 0 VALUE={(IF(V(A) > (VTHRESH) ,  (VSS),(VDD)))}
RINT_INV_BASIC_GEN YINT Y R=1

CINT_INV_BASIC_GENY 0 1n
.ENDS
.SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n

E_ABMGATE1 YINT1 0 VALUE={(IF(V(A) > (VTHRESH) ,  (VDD),(VSS)))}
RINT_BUF_DELAY_BASIC YINT1 YINT2 R=1

CINT_BUF_DELAY_BASIC YINT2 0 C={DELAY*1.3}
E_ABMGATE2 YINT3 0 VALUE={(IF(V(YINT2) > (VTHRESH) ,  (VDD),(VSS)))}
RINT2_BUF_DELAY_BASIC YINT3 Y R=1

CINT2_BUF_DELAY_BASIC Y 0 C=1n
.ENDS
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE_OR2_BASIC_GEN YINT 0 
+ VALUE={(IF(V(A) > (VTHRESH)  |  V(B) > (VTHRESH),(VDD),(VSS)))}
RINT_OR2_BASIC YINT Y R=1
CINT_OR2_BASIC Y 0 C=1n
.ENDS
.SUBCKT BUFFER_PS A Y PARAMS: vhi=1 vlo=0 vthresh=500e-3 tplh=1e-9 tphl=1e-9 tr=1e-9 tf=1e-9

RA A 0 R=1e11
CA A 0 C=0.01pF
VS VSUP 0 DC 1
EBUF1 Ypp 0 VALUE={IF(V(A) > ((vthresh)), 1, 0)}
ROUTpp Ypp 0 R=1e11
XNSW1 OUTp Ypp 0 NSW_PS PARAMS: RONVAL={(tplh+1e-15)/(1e-12*0.693)} VTHVAL=0.5
XPSW1 OUTp Ypp VSUP PSW_PS 
+ PARAMS: RONVAL={(tphl+1e-15)/(1e-12*0.693)} VTHVAL=0.5
CDEL1 OUTp 0 C=1pF
ETHRESH Yp 0 VALUE={IF(V(OUTp) > 0.5, 1, 0)}
ROUTp Yp 0 R=1e11
XNSW2 OUTr Yp 0 NSW_PS PARAMS: RONVAL={(tf+1e-15)/(1e-12*2.3)} VTHVAL=0.5
XPSW2 OUTr Yp VSUP PSW_PS PARAMS: RONVAL={(tr+1e-15)/(1e-12*2.3)} VTHVAL=0.5
CDEL2 OUTr 0 C=1pF
EOUT_BUFFER_PS OUTf 0 VALUE={V(OUTr)*((vhi) - (vlo))+(vlo)}
RDR OUTf Y R=1000
RO Y 0 R=1e11
.ENDS
.SUBCKT NSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF CSval=0.01pf
RDDUM_NSW_PS D 0 R=1e11
RSDUM_NSW_PS S 0 R=1e11
RGDUM_NSW_PS G 0 R=1e11
CG_NSW_PS G D C={CGval}
CD_NSW_PS D S C={CDval}
CS_NSW_PS G S C={CSval}
Etest_NSW_PS test 0 VALUE={IF(V(D) > V(S), V(G,S), V(G,D))}

GOUT_NSW_PS D S 
+ VALUE={V(D,S)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}
.ENDS
.SUBCKT PSW_PS D G S PARAMS: RONval=10k VTHval=0.7 VCHARval=0.01 CGval=0.01pF CDval=0.01pF
RDDUM_PSW_PS D 0 R=1e11
RSDUM_PSW_PS S 0 R=1e11
RGDUM_PSW_PS G 0 R=1e11
CG_PSW_PS G D C={CGval}
CD_PSW_PS D S C={CDval}
Etest_PSW_PS test 0 VALUE={IF(V(S) > V(D), V(S,G), V(D,G))}
GOUT_PSW_PS S D 
+ VALUE={V(S,D)/(RONval*(1+EXP(-LIMIT(((V(test)-VTHval)/VCHARval),-80,80))))}
.ENDS
.SUBCKT FALLING_DELAY IN OUT PARAMS: DELAY=100n VDD=1 VSS=0 VTHRESH=0.5
X_U1 INT OUT BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
R_R1 IN INT R={DELAY/(0.693 * 1E-9)}

C_C1 0 INT C=1n
D_D1 IN INT DD
.MODEL DD D IS=1F N=0.01 TT=10p LEVEL=2
.ENDS
.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5

E_ABMGATE_BUF_BASIC_GEN YINT 0 VALUE={(IF(V(A) > (VTHRESH) ,  (VDD),(VSS)))}
RINT_BUF_BASIC YINT Y R=1

CINT_BUF_BASIC Y 0 C=1n
.ENDS
.SUBCKT EPC2016C gatein drainin sourcein

.PARAM 
+ AWG=506 A1=16.068 K2=2.1706 K3=0.15 RPARA=0.0090152 RPARA_S_FACTOR=0.15 AITC=0.00377 
+ ARTC=-0.0058 K2TC=0.00053 X0_0=1.4801 X0_1=2.9429e-07 X0_1_TC=0 DGS1=4.3e-07 DGS2=2.6e-13 
+ DGS3=0.8 DGS4=0.23 AGS1=3.5349e-10 AGS2=2.1671e-10 AGS3=1.8658 AGS4=0.18564 AGS5=-2.121e-13 
+ AGS6=-4.3456 AGS7=4.5809 AGD1=9.6492e-13 AGD2=4.1526e-11 AGD3=-1.0223 AGD4=0.84414 
+ AGD5=3.4461e-11 AGD6=-7.2589 AGD7=4.7456 AGD8=4.3656e-12 AGD9=-51.814 AGD10=22.587 
+ ASD1=9.9513e-11 ASD2=2.2884e-10 ASD3=-14.313 ASD4=6.5135 ASD5=3.4213e-10 ASD6=-0.76983 
+ ASD7=61.161 RG_VALUE=0.4
Rd drainin drain R={((1-rpara_s_factor)*rpara*(1-arTc*(Temp2-25)))}


Rs sourcein source R={(rpara_s_factor*rpara*(1-arTc*(Temp2-25)))}
Rg gatein gate R={(rg_value)}
Rcsdconv drain source R={100000Meg/aWg}

Rcgsconv gate source R={100000Meg/aWg}
Rcgdconv gate drain R={100000Meg/aWg}
Gswitch drain source 
+ VALUE={if(v(drain,source)>0, 	(A1*(1-aITc*(Temp2-25))*log(1.0+exp((v(gate,source)-(k2*(1-k2Tc*(Temp-25))))/k3))*  	v(drain,source)/(1 + max(x0_0+x0_1*(1-x0_1_TC*(Temp2-25))*v(gate,source),0.2)*v(drain,source)) ),  	(-A1*(1-aITc*(Temp2-25))*log(1.0+exp((v(gate,drain)-(k2*(1-k2Tc*(Temp-25))))/k3))*  	v(source,drain)/(1 + max(x0_0+x0_1*(1-x0_1_TC*(Temp2-25))*v(gate,drain),0.2)*v(source,drain)) ) ) }
Ggsdiode gate source 
+ VALUE={if( v(gate,source) < 10, 	0.5*aWg/1077*(dgs1*(exp((v(gate,source))/dgs3)-1)+dgs2*(exp((v(gate,source))/dgs4)-1)),  	0.5*aWg/1077*(dgs1*(exp((10)/dgs3)-1)+dgs2*(exp((10)/dgs4)-1)) ) }


Ggddiode gate drain 
+ VALUE={if( v(gate,drain) < 10, 	0.5*aWg/1077*(dgs1*(exp((v(gate,drain))/dgs3)-1)+dgs2*(exp((v(gate,drain))/dgs4)-1)),  	0.5*aWg/1077*(dgs1*(exp((10)/dgs3)-1)+dgs2*(exp((10)/dgs4)-1)) ) }

E_IGS tl_gs bl_gs 
+ VALUE={0.5*ags2*ags4*log(1+exp((v(gate,source)-ags3)/ags4))+ 	ags5*ags7*log(1+exp((v(source,drain)-ags6)/ags7))+  	ags1*v(gate,source) }


V_INGS br_gs bl_gs DC 0.0


C_IGS br_gs tr_gs C={1.0e-6}
R_IGS tr_gs tl_gs R={1.0e-4}
F_IGS gate source V_INGS 1e6
R_IGS2 bl_gs source R=100Meg
E_IGD tl_gd bl_gd 
+ VALUE={0.5*ags2*ags4*log(1+exp((v(gate,drain)-ags3)/ags4))+ 	agd2*agd4*log(1+exp((v(gate,drain)-agd3)/agd4))+  	agd5*agd7*log(1+exp((v(gate,drain)-agd6)/agd7))+  	agd8*agd10*log(1+exp((v(gate,drain)-agd9)/agd10))+  	agd1*v(gate,drain) }
V_INGD br_gd bl_gd DC 0.0




C_IGD br_gd tr_gd C={1.0e-6}
R_IGD tr_gd tl_gd R={1.0e-4}
F_IGD gate drain V_INGD 1e6
R_IGD2 bl_gd drain R=100Meg
E_ISD tl_sd bl_sd 
+ VALUE={asd2*asd4*log(1+exp((v(source,drain)-asd3)/asd4))+ 	asd5*asd7*log(1+exp((v(source,drain)-asd6)/asd7))+  	asd1*v(source,drain) }
V_INSD br_sd bl_sd DC 0.0


C_ISD br_sd tr_sd C={1.0E-6}
R_ISD tr_sd tl_sd R={1.0e-4}
F_ISD source drain V_INSD 1e6
R_ISD2 bl_sd drain R=100Meg
.ENDS
